US07521461B2
a) 4-[3-(3,4-Dihydroisoquinolin-2(1H)-yl)-3-oxopropyl]phenol
3-(4-Hydroxyphenyl)propionic acid (202 mg, 1.216 mmol) in DMF (3 ml) was cooled in an ice-bath. 1,2,3,4-Tetrahydroisoquinoline (170 mg, 1.276 mmol) was added and then TBTU (410 mg, 1.276 mmol) followed by DIPEA (330 mg, 2.553 mmol). The mixture was stirred at room temperature overnight. Sodium hydrogencarbonate aqueous solution (sat.) was added. The mixture was extracted with ethyl acetate (×2). The extracts were combined and dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 2 g/6 ml) using DCM and then MeOH/DCM (1:99) as eluant gave 303 mg the desired product, yield 89%.

reactant | 3-(4-Hydroxyphenyl)propionic acid | 1.216 mmol, 202 mg | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | 1,2,3,4-Tetrahydroisoquinoline | 1.276 mmol, 170 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | TBTU | 1.276 mmol, 410 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 2.553 mmol, 330 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-[3-(3,4-Dihydroisoquinolin-2(1H)-yl)-3-oxopropyl]phenol | 303 mg, yield 89% | C1N(CCC2=CC=CC=C12)C(CCC1=CC=C(C=C1)O)=O | C18H19NO2
